US08003663B2
4-[(8-bromooctanoyl)amino]benzamide
Pyridine (1.6 mL, 1.1 equivalents) is added to a mixture of 4-aminobenzamide (2.5 g, 18 mmol) and n-butyronitrile (65 mL) at 20° C. under an atmosphere of nitrogen. The mixture is stirred for 15 minutes before a solution of 8-bromooctanoyl chloride (3.7M in toluene, 5.5 mL, 20 mmol, 1.1 equivalents) in n-butyronitrile (10 mL) is added over 20 minutes. The mixture is then stirred at 20° C. for 22 hours. Upon complete reaction the mixture is filtered. The resulting product is washed with methanol (10 mL), water (2×25 mL), methanol (10 mL) and tert-butyl methyl ether (TBME, 10 mL) before being dried in vacuo to yield the title compound, generally as a solid.

reactant | Pyridine | 1.6 mL, 1.1 equivalents | N1=CC=CC=C1 | C5H5N
reactant | 4-aminobenzamide | 18 mmol, 2.5 g | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | 8-bromooctanoyl chloride | 20 mmol, 3.7M, 5.5 mL, 1.1 equivalents | BrCCCCCCCC(=O)Cl | C8H14BrClO
solvent | n-butyronitrile | 10 mL | C(CCC)#N | C4H7N
solvent | n-butyronitrile | 65 mL | C(CCC)#N | C4H7N
product | 4-[(8-bromooctanoyl)amino]benzamide | BrCCCCCCCC(=O)NC1=CC=C(C(=O)N)C=C1 | C15H21BrN2O2
